US04022767
A mixture of 11.34 g (0.0197 m) of 7-chloro-2-(3,4-dibenzyloxyphenethylamino)-3,4-dihydro-4-methyl-5H-1,4-benzodiazepine-5-one hydrochloride and 10% palladium on charcoal catalyst in 250 ml of absolute methanol is hydrogenated until no more hydrogen is absorbed. The catalyst is removed by filtration and the filtrate is concentrated to dryness in vacuo to give crude 3,4-dihydro-2-(3,4-dihydroxyphenethylamino)-4-methyl-5H-1,4-benzodiazepine-5-one hydrochloride hemi methanolate. Several recrystallizations from ethanol/ether give the pure product, m.p. 179°-180° C. dec.

reactant | 7-chloro-2-(3,4-dibenzyloxyphenethylamino)-3,4-dihydro-4-methyl-5H-1,4-benzodiazepine-5-one hydrochloride | 11.34 g | Cl.ClC=1C=CC2=C(C(N(CC(=N2)NCCC2=CC(=C(C=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)C)=O)C1
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | 250 ml | CO | CH4O
product | 3,4-dihydro-2-(3,4-dihydroxyphenethylamino)-4-methyl-5H-1,4-benzodiazepine-5-one hydrochloride | Cl.OC=1C=C(CCNC2=NC3=C(C(N(C2)C)=O)C=CC=C3)C=CC1O | InChI=1S/C18H19N3O3.ClH/c1-21-11-17(20-14-5-3-2-4-13(14)18(21)24)19-9-8-12-6-7-15(22)16(23)10-12;/h2-7,10,22-23H,8-9,11H2,1H3,(H,19,20);1H
